US04906654
2-Fluoro-5-(p-chlorobenzyl)-5,6,7,8,9,10-hexahydrocyclohept[b]indole-10-acetic acid
To 1.10 g of 3-oxo-cycloheptaneacetic acid in 35 mL tert-butanol was added 2.13 g of 1-(p-chlorobenzyl)-1-(p-fluorophenyl) hydrazine hydrochloride, The reaction mixture was refluxed under nitrogen for 18 h, cooled to room temperature and then evaporated to dryness. The resultant residue was partitioned between water and ethyl acetate. The organic layer was washed with 1N HCl (2X), water (2X) and brine and dried over MgSO4. Filtration and concentration gave oil which was purified by flash chromatography on silica gel. Elution of the column with a mixture of hexane-ethyl acetate (7:3) gave the title compound substituted at the 10-position, mp 138°-139° C. IR (KBr) 1703 cm-1. 'H NMR (CDCl3, 250 MHz) w 1.32-1.54 (m, 1H),2.60-2.87 (m, 2H), 2.65 (d, J=7.5 Hz, 2H), 3.72-3.83 (m, 1H), 5.25 (s, 2H), 6.78-6.88 (m, 1H), 6.81 (d, J=8.0 Hz, 2H), 7.04 (d,d, J=4.5, 9.0 Hz, 1H), 7.20-7.30 (buried m, 1H), 7.23 (d, J=8.0 Hz, 2H).

reactant | 3-oxo-cycloheptaneacetic acid | 1.10 g | O=C1CC(CCCC1)CC(=O)O | C9H14O3
reactant | 1-(p-chlorobenzyl)-1-(p-fluorophenyl) hydrazine hydrochloride | 2.13 g | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1
solvent | tert-butanol | 35 mL | C(C)(C)(C)O | C4H10O
product | 2-Fluoro-5-(p-chlorobenzyl)-5,6,7,8,9,10-hexahydrocyclohept[b]indole-10-acetic acid | FC=1C=C2C3=C(N(C2=CC1)CC1=CC=C(C=C1)Cl)CCCCC3CC(=O)O | C22H21ClFNO2
